US04619787
16.2 ml of a 1.7M solution of butyl lithium in hexane is added dropwise within 5 minutes to a solution (cooled to -65°) of 2.78 g (27.5 mmol) of diisopropylamine in 100 ml of tetrahydrofuran. The resulting mixture is then cooled to -76° and treated after 15 minutes with a solution of 7.14 g (25 mmol) of (S)-1-(t-butyldimethylsilyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone in 6 ml of tetrahydrofuran. The mixture is stirred at -76° for 30 minutes and then a solution of 2.65 g of acetaldehyde in 5 ml of tetrahydrofuran is added dropwise within 10 minutes thereto. The mixture is stirred for 15 minutes, the cooling bath is removed, the reaction solution is treated with 20 ml of 14 percent (by volume) aqueous ammonium chloride solution and extracted with 100 ml of ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated in vacuo. The residual oil is taken up in 10 ml of hexane and the solution is left to stand at -20°. Colourless crystals of melting point 80°-90° are obtained. After repeated recrystallization from ethyl acetate/hexane there is obtained (3S,4S)-1-(t-butyldimethylsilyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-3-[(R)-1-hydroxyethyl]-2-azetidinone of melting point 95°-96°; [α]D20 =16.6° (c=1, ethyl acetate).

reactant | butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 27.5 mmol, 2.78 g | C(C)(C)NC(C)C | C6H15N
reactant | (S)-1-(t-butyldimethylsilyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-azetidinone | 25 mmol, 7.14 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1[C@H]1OC(OC1)(C)C)=O | C14H27NO3Si
reactant | acetaldehyde | 2.65 g | C(C)=O | C2H4O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (3S,4S)-1-(t-butyldimethylsilyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-3-[(R)-1-hydroxyethyl]-2-azetidinone | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1[C@H]1OC(OC1)(C)C)[C@@H](C)O)=O | C16H31NO4Si
